US09062041B2
EXAMPLE 154a (+/−)-2-(cyclobutyloxy)-propanamide
To a suspension of 732 mg of sodium hydride in 15 ml THF, 2.0 g of cyclobutanol in 0.5 ml THF were added dropwise and stirred for 30 minutes at 25° C. The reaction mixture was then cooled to 0° C. and 2.11 g of (+/−) 2-bromopropanamide in 0.5 ml tetrahydrofuran were added dropwise and then stirred for 18 hours at 25° C. The reaction mixture was poured onto ice-water and extracted once with 75 ml dichloromethane. The organic phase was washed with saturated sodium chloride solution, dried over sodium sulphate and concentrated in vacuo after filtration. The crude product thus obtained was purified by column chromatography on silica gel with hexane/0-50% ethyl acetate. Yield: 0.79 g of the title compound.

reactant | sodium hydride | 732 mg | [H-].[Na+]
reactant | cyclobutanol | 2.0 g | C1(CCC1)O | C4H8O
reactant | (+/−) 2-bromopropanamide | 2.11 g | BrC(C(=O)N)C | C3H6BrNO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | (+/−)-2-(cyclobutyloxy)-propanamide | C1(CCC1)OC(C(=O)N)C | C7H13NO2
